US06838463B2
Under an atmosphere of a nitrogen gas, 2.98 g of 4,6-dichloropyrimidine, 1.81 g of 3,3-dimethyl-1-butyne, 351 mg of dichlorobis(triphenylphosphine)palladium, 381 mg of copper iodide, 4.05 g of triethylamine and 525 mg of triphenylphosphine was added to 20 ml of acetonitrile and the suspension was stirred for 6 hours at 45° C. After cooling the reaction mixture was diluted with t-butyl methyl ether and washed three times with water. The organic layers were dried over sodium sulfate and concentrated. The residue was subjected to silica gel thin layer chromatography to give 1.86 g of 4-chloro-6-(3,3-dimethyl-1-butynyl)pyrimidine.

reactant | 4,6-dichloropyrimidine | 2.98 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3,3-dimethyl-1-butyne | 1.81 g | CC(C#C)(C)C | C6H10
reactant | triethylamine | 4.05 g | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | t-butyl methyl ether | COC(C)(C)C | C5H12O
catalyst | dichlorobis(triphenylphosphine)palladium | 351 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 381 mg | [Cu](I)I
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-chloro-6-(3,3-dimethyl-1-butynyl)pyrimidine | 1.86 g | ClC1=NC=NC(=C1)C#CC(C)(C)C | C10H11ClN2
